US06723720B2
At room temperature, 30 g of N′-[(2,6-difluorophenyl)-imino-methyl]-hydrazinecarboxylic acid tert-butyl ester and 23.8 g of glyoxylic acid ethyl ester are stirred in 500 ml of toluene at 70° C. for 4 hours. The reaction mixture is then concentrated, 200 ml of formic acid are added and stirring is continued at room temperature for 5 hours. The reaction mixture is concentrated, and the residue is taken up in 300 ml of ethanol and boiled under reflux for 6 h. After concentration of the reaction mixture and recrystallisation from ethyl acetate there is obtained 3-(2,6-difluorophenyl)-[1,2,4]triazin-6(1H)-one having a melting point of 219-226° C.

reactant | N′-[(2,6-difluorophenyl)-imino-methyl]-hydrazinecarboxylic acid tert-butyl ester | 30 g | C(C)(C)(C)OC(=O)NNC(=N)C1=C(C=CC=C1F)F | C12H15F2N3O2
reactant | glyoxylic acid ethyl ester | 23.8 g | C(C)OC(C=O)=O | C4H6O3
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(2,6-difluorophenyl)-[1,2,4]triazin-6(1H)-one | FC1=C(C(=CC=C1)F)C1=NNC(C=N1)=O | C9H5F2N3O
